US07888347B2
1,1-Dimethylethyl 2-{4-[(methylamino)carbonyl]phenyl}-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (D24)
To a suspension of 4-[6-{[(1,1-dimethylethyl)oxy]carbonyl}-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl]benzoic acid (may be prepared as described in Description 23) (185 mg, 0.52 mmol) in dichloromethane (10 ml) was added 1,1′-(oxomethanediyl)bis-1H-imidazole (168 mg, 1.04 mmol) and the reaction stirred at room temperature, under argon, overnight. Methylamine (64 mg, 2.07 mmol) was added and stirring continued, under argon, at room temperature for 4 hours. The resulting crude mixture was diluted with water, and extracted with dichloromethane (×2). The combined organic fractions were washed with water (×1), dried over magnesium sulphate and solvent evaporated in vacuo to afford the title compound (D24). MS (ES+) m/e 371 [M+H]+.

reactant | 4-[6-{[(1,1-dimethylethyl)oxy]carbonyl}-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl]benzoic acid | 0.52 mmol, 185 mg | CC(C)(C)OC(=O)N1CCC=2C(CC1)=CN(N2)C2=CC=C(C(=O)O)C=C2 | C19H23N3O4
reactant | 1,1′-(oxomethanediyl)bis-1H-imidazole | 1.04 mmol, 168 mg | O=C(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Methylamine | 2.07 mmol, 64 mg | CN | CH5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1,1-Dimethylethyl 2-{4-[(methylamino)carbonyl]phenyl}-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | CNC(=O)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C20H26N4O3
